US05158946
(c) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-ylmethyloxy)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid hydrochloride (300 mg) in dimethylformamide (4 ml) was cooled to -50° C. whilst under an inert atmosphere. N,N-Diisopropylethylamine (218 μl) was added followed by methanesulphonyl chloride (49 μl). The reaction was stirred for 30 min. at -50° C. before treating with pyridine (52 μl) followed by a solution of diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylmethyloxy)ceph-3-em-4-carboxylate (300 mg) in dimethylformamide (4 ml) and the temperature allowed to rise to 0° C. The reaction was stirred for 15 min. and then poured into ethyl acetate and water. The organic phase was washed with water (two times) and brine before drying over anhydrous magnesium sulphate. Chromatography on silica gel (Keiselgel) eluting with 4:1 ethyl acetate/hexane gave the title compound which was finally isolated as a foam (431 mg). υmax (CH2Cl2) 3400, 1785, 1755, and 1730cm-1 ; δH(CDCl3) 3.34 (2H, s), 4.08 (3H, s), 4.64 (2H, s) 4.73 (2H, bs), 5.11 (1H, d, J 4.5Hz), 5.79 (1H, dd, J 8.24Hz, 4.5Hz), 5.95 (1H, bs) 6.77 (1H, s), 6.90 (1H, s), 6.96 (1H, d, J 8.07Hz), 7.02 (1H, s), and 7.26-7.39 (25H, m). [Mass spectrum: FAB +ve ion (3NOBA/Na+)MH+ 904, MNa+ 926].

reactant | 2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid hydrochloride | 300 mg | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC
reactant | N,N-Diisopropylethylamine | 218 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 49 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylmethyloxy)ceph-3-em-4-carboxylate | 300 mg | N[C@H]1[C@@H]2N(C(=C(CS2)OCC2=CC(OC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O6S
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 52 μl | N1=CC=CC=C1 | C5H5N
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-ylmethyloxy)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate | O=C1OCC(=C1)COC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C50H41N5O8S2
